Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman w/ biphenotypic leukemia 
who is 36 days out from an Allo-SCT. She presents with 
nausea/vomiting and inability to tolerate PO.  
.  
In brief, she initially presented in ___ with pancytopenia 
and was ultimately diagnosed with a biphenotypic leukemia. She 
recieved hyperCVAD part A and B. Bone marrow biopsy remained 
positive and she was treated with MEC. Marrow continued to show 
blasts and this was followed by clofarabine and Ara-C resulting 
in an empty marrow without evidence of leukemia. Her post- 
chemotherapy course was complicated by sepsis secondary to high 
grade VRE bacteremia and coag negative staph bacteremia treated 
with 4 weeks of daptomycin. She developed ATN and ultimately 
anuric renal failure requiring dialysis for ___ weeks. Her 
kidney function ostensibly recovered, she went to rehab and 
returned, strengthened for her AlloSCT.  
.  
She was discharged on Day ___ after a course that was complicated 
by severe mucositis and Coag-Neg staph bacteremia. Her counts 
recovered, her mucositis improved. Her renal function slowly 
rose from ___ onward. This was attributed to a combination of 
improving nutritional status and bulk, dehydration (the rise was 
concomittant with the paring down of her enteral infusions) and 
drug effect (?Tacrolimus, ?trimethoprim). On Day 27, she 
presented to ___ for a lab check. Her Cr had risen to 1.8, her 
platelets fell from 190-120. A renal ultrasound found echogenic 
kidneys c/w medical renal disease and a theory was developed 
that she had renal insufficiency ___ dehyrdration (inability to 
tolerate PO) and tacrolimus c/b tubular injury. She was 
rehydrated and her renal function improved.  
.  
She now presents from clinic with continued nausea, vomiting, 
and inability to take PO. She is staying at the ___. 
She reports wakening up this morning around 1:00 AM to go to the 
bathroom. While up she developed N/V, with emesis and wretching 
lasting for about 5 minutes. She has not eaten anything since 
this time. She took Ativan this morning and with moderate relief 
of nausea. She denies any issues with her bowels. Also denies 
fever, rash, dyspnea, or any other complaints.  

 
Past Medical History:
Diagnosed with biphenotypic leukemia in ___ by bone marrow  
biospy due to low counts, s/p part A of hyper CVAD treatment  
complicated by mucositis, slow to recover WBC counts, repeat 
bone  
marrow biopsy showing continued disease, so she was started on  
part B of hyper CVAD treatment. Part B was complicated by  
neutropenic fever. She was given two cycles of IT methotrexate,  

her CNS did not have any evidence of disease. Repeat BM biopsy  
showed 40% blasts, was started on MEC, next BM biopsy showed a  
decrease to 20% blasts. She was then started on clofarabine and  

ara-C as an outpatient, with the possibility of a SCT in the  
future.  

PMH:
Biphenotypic Leukemia (see above for full details)  
.  
Other past medical History:  
+ PPD (short course of moxifloxacin, no INH)  
Bilateral meniscus repairs  
Hypertension  
Appendicitis, s/p appendectomy ___  
VRE bacteremia  
Basilic vein thrombosis, s/p veinectomy  
Acute renal failure  

 
Social History:
___
Family History:
Mother died at ___ of large cell lymphoma
Father died at of colon cancer
DM and HTN both run in the family
No FH of leukemia.
 
Physical Exam:
Vitals: 95.8, 142/101, 89, 20, 98RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear; healing 
mucositis  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-XII intact, strength ___ in proximal lower 
extremities otherwise normal, intact to light sensation although 
notes dysesthesia, cerebellar function intact by FNF/ 
heel-shin-heel  
skin: no lesions, rashes or ulcerations  

 
Pertinent Results:
Labs on admission:

___ 09:05AM   WBC-7.4 RBC-3.63* HGB-11.0* HCT-33.4* MCV-92 
MCH-30.3 MCHC-32.9 RDW-16.3*
___ 09:05AM   NEUTS-74.7* LYMPHS-12.3* MONOS-12.3* EOS-0.6 
BASOS-0.1
___ 09:05AM   PLT COUNT-163
___ 09:05AM   CALCIUM-10.0 PHOSPHATE-3.3 MAGNESIUM-1.6
___ 09:05AM   ALT(SGPT)-27 AST(SGOT)-43* LD(LDH)-243 ALK 
PHOS-168* TOT BILI-0.7
___ 09:05AM   UREA N-16 CREAT-1.8* SODIUM-140 POTASSIUM-4.6 
CHLORIDE-102 TOTAL CO2-26 ANION GAP-17
___ 09:05AM   tacroFK-4.5*

Labs on discharge:

___ 12:00AM BLOOD WBC-5.5 RBC-2.80* Hgb-8.8* Hct-25.5* 
MCV-91 MCH-31.5 MCHC-34.6 RDW-15.8* Plt Ct-86*
___ 09:10AM BLOOD Neuts-74.0* Lymphs-12.8* Monos-12.2* 
Eos-0.8 Baso-0.2
___ 12:00AM BLOOD Plt Ct-86*
___ 12:00AM BLOOD Glucose-135* UreaN-26* Creat-1.3* Na-139 
K-4.0 Cl-106 HCO3-25 AnGap-12
___ 12:00AM BLOOD ALT-41* AST-51* LD(LDH)-200 AlkPhos-113* 
TotBili-0.6
___ 12:00AM BLOOD Albumin-3.4* Calcium-8.5 Phos-3.6 Mg-1.3*
___ 09:59AM BLOOD tacroFK-3.4*

Reports:
MRI (___): IMPRESSION:  
Nonspecific T2/FLAIR periventricular and subcortical white 
matter changes. 
Otherwise normal brain MR. 

___ (___):
Erythema in the antrum compatible with mild gastritis (biopsy)
Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
___ is a ___ year old woman w/ biphenotypic leukemia 
s/p Allo-SCT (___), admitted with ARF and 
nausea/vomiting/inability to take PO.  
.  
#) Acute renal failure -> Felt to be prerenal b/c Poor PO 
intake, endorses hx of vomiting and Improved with IV hydration. 

#) Nausea/Vomiting -> MRI was done to rule out central process 
(negative). EGD with biopsies were done and pending at the time 
of discharge to evaluate for GVHD. There was no evidence of 
ulcer. Patient was originally on IV medrol 20mg BID and tapered 
to get 20mg IV daily on the day following discharge with a plan 
to eventually switch to PO prednisone. Patient was set up to f/u 
in outpatient ___. Biopsies from EGD will need to be 
followed up to eval for formal dx of GVHD, though she is being 
treated empirically at this point. Started on PPI given mild 
gastritis on biopsy and fact that patient is on steroids.

.  
.  
#) Allo SCT for biphenotypic leukemia s/p induction ctx with 
hyperCVAD part A and B, MEC and clofarabine/ Ara-C--> patient 
continued on prophylaxis (fluconazole, dapsone, acyclovir). 
Tacrolimus uptitrated to 1mg BID based on subtherapeutic levels 
inhouse and will need to be followed and adjusted when seen on 
___.  
 
.  
#) HTN: well controlled, continued norvasc and metoprolol.   
 

 
Medications on Admission:
1. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO QPM.  
2. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
Disp:*60 Tablet(s)* Refills:*2*  
3. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
4. Metoprolol Succinate 200 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
5. Lorazepam 1 mg Tablet Sig: ___ Tablet PO Q4H (every 4 
hours) as needed for nausea.  
6. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain.  
7. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
10. Dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Prednisone 10 mg Tablet Sig: Three (3) Tablet PO once a day. 
 
12. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours). Disp:*90 Tablet(s)* Refills:*0*  
13. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: ___ Tablet, 
Rapid Dissolves PO every eight (8) hours as needed for nausea. 
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*  
14. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO QAM. 
Disp:*30 Capsule(s)* Refills:*2*  

 
Discharge Medications:
1. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
2. Dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).
Disp:*60 Capsule(s)* Refills:*0*
4. Methylprednisolone Sodium Succ 40 mg/mL Recon Soln Sig: 
Twenty (20) mg Injection ASDIR for 2 doses: You will come to 
___ to get this for the next two days and then 
potentially switch to an oral regimen.  
5. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
7. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
8. Metoprolol Succinate 200 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
9. Ativan 0.5 mg Tablet Sig: ___ Tablets PO every four (4) hours 
as needed for nausea/anxiety.  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
12. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
13. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
14. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. Biphenotypic Leukemia
2. Acute renal failure
3. Nausea/vomiting possibly secondary to GVHD

SECONDARY DIAGNOSES:
1. Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with nausea, vomiting, and 
renal failure. All of your symptoms resolved upon admission. You 
were initially given intravenous fluids, but your nausea 
resolved and you were taking plenty of fluids by mouth at the 
time of discharge. 

To work up your nausea/vomiting, you had an upper endoscopy, 
which showed some mild inflammation of the stomach (not an 
explanation for your symptoms). Biopsies were taken and are 
still pending. You must follow up with your doctor regarding 
those results. You also have a CMV blood test (a virus) that is 
still pending and needs to be followed up.

You also had an MRI to be sure no mass in your head was causing 
the nausea. Your MRI was normal. 

Please follow-up with your doctors as listed below. You are 
going to the apartments and need to return if you have any 
problems. 

The following changes have been made to your medications:
1. Start taking omeprazole 40mg daily
2. Increase tacrolimus to 1mg twice a day
3. Come in to get IV steroids tomorrow. Your steroid regimen 
will be managed by the nurse ___ you see. 
 
Followup Instructions:
___